US07968746B2
Following the amide coupling procedure described in protocol A, 500 mg 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid (2.00 mmol), 356 mg CDI (2.20 mmol) and 266 mg phenethylamine (2.2 mmol) produced 440 mg of 6-hydroxy-2,5,7,8-tetramethyl-N-phenethylchroman-2-carboxamide as a clear pale brown oil.

reactant | 6-hydroxy-2,5,7,8-tetramethylchroman-2-carboxylic acid | 2.00 mmol, 500 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)O)C)C | C14H18O4
reactant | CDI | 2.20 mmol, 356 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | phenethylamine | 2.2 mmol, 266 mg | C(CC1=CC=CC=C1)N | C8H11N
product | 6-hydroxy-2,5,7,8-tetramethyl-N-phenethylchroman-2-carboxamide | 440 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCC1=CC=CC=C1)C)C | C22H27NO3
